US06403596B1
Step 1E: 5-(2-methylsulfonylpyrimidin-4-yl)-2-oxo-6-(3-trifluoromethylphenyl)-1.2-dihydropyridine-3-carbonitrile
To a solution of 5-(2-methylsulfanylpyrimidin-4-yl)-2-oxo-6-(3-trifluoromethylphenyl)-1,2-dihydropyridine-3-carbonitrile (0.40 gm, 0.00104 mole) in methanol (40 mL) was slowly added a solution of Oxone (1.90 gm, 0.0030 mole) in water (40 mL). The mixture was allowed to stir for 30 minutes and then acetone (20 mL) added. The reaction was then stirred for 48 hrs, and then concentrated to remove the acetone and methanol. The resulting mixture was dissolved in ethyl acetate and water and the pH adjusted to 7.0 with 10% aqueous sodium hydrogen sulfate. The ethyl acetate layer was removed and aqueous layer washed with ethyl acetate. The ethyl acetate extracts were dried over sodium sulfate and concentrated to give 0.25 gm (57%) of the title compound.

reactant | 5-(2-methylsulfanylpyrimidin-4-yl)-2-oxo-6-(3-trifluoromethylphenyl)-1,2-dihydropyridine-3-carbonitrile | 0.00104 mole, 0.40 gm | CSC1=NC=CC(=N1)C=1C=C(C(NC1C1=CC(=CC=C1)C(F)(F)F)=O)C#N | C18H11F3N4OS
reactant | Oxone | 0.0030 mole, 1.90 gm | OOS(=O)[O-].[K+]
reactant | acetone | 20 mL | CC(=O)C | C3H6O
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 40 mL | O | H2O
product | 5-(2-methylsulfonylpyrimidin-4-yl)-2-oxo-6-(3-trifluoromethylphenyl)-1.2-dihydropyridine-3-carbonitrile | 0.25 gm, 57% | CS(=O)(=O)C1=NC=CC(=N1)C=1C=C(C(NC1C1=CC(=CC=C1)C(F)(F)F)=O)C#N | C18H11F3N4O3S
